Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ hx CAD status post VF arrest in ___ in the setting of MI 
with subsequent drug-eluting stent placement at our hospital who 
presents for evaluation of jaw discomfort and palpitations. 
 
The patient has a h/o prior Vfib arrest ___ found to have CAD 
w/ prior mLCx DES, CHFrEF (35% ___, follows w/ Dr. ___ at 
___ who presents after episode of tachycardia. He was in 
his usual state of health, active at baseline, works at ___ 
___ w/ frequent manual labor w/o any symptoms. Noted
gastroenteritis w/ nausea, vomiting, and diarrhea several days 
ago after his nephew visited him with similar symptoms; 
presented to ___ noted to be dehydrated and treated w/ IVF 
w/ resolution of symptoms. 

After this admission, he continued to feel week, but started to 
tolerate more PO on ___. Was at home ___ ___ laying in bed 
reading when developed sudden onset of jaw pain, noted 
?palpitations, some pounding in his neck (which he says was "in 
his carotids".) He subsequently activated EMS, found to be in
regular narrow complex tachycardia. He was not instructed to 
perform any vagal maneuvers.

He was given some sublingual nitro spray, and about 20 minutes 
later, his symptom abated suddenly, he reports with the 
sensation of a "thump." Pt subsequently transferred to ___. 
Upon arrival pt reported feeling back to baseline, denied any 
chest pain, difficulty breathing, palptiations; notes has had 2 
episodes similar in the past ___ months. Denied any fevers, 
chills,
vomiting, diarrhea. 

In the ED, initial vitals:  
101 145/78 20 98% RA 

Exam notable for:  
Constitutional: Comfortable.
Head/eyes: NCAT, PERRLA, EOMI.
ENT/neck: OP WNL
Chest/Resp: CTAB.
Cardiovascular: RRR, Normal S1/S2.
Abdomen: Soft, nondistended. Nontender.
Musc/Extr/Back: ___. No edema.
Skin: No rash. Warm and dry.
Neuro: Speech fluent.
Psych: Normal mood. Normal mentation.

Labs notable for:  
9.7 > 11.7/35.4 < 170 
  
Ca: 8.7 Mg: 1.8 P: 3.3
CK: 98  MB: 2  Trop-T: <0.01  

141  105  16   
--------------< 108 
3.6  19  1.1 

UA: Trace protein, few bacteria, otherwise wnl

Imaging notable for: 
CXR: No acute cardiopulmonary process.
 
Vitals prior to transfer: 
97.8 79 143/67 19 98% RA 
 
Upon arrival to the floor, the patient reports that his symptoms 
have entirely resolved. Feels foolish for coming in at all, and 
wishes he had just stayed home. No chest pain, SOB, no further 
palpitations.

 
Past Medical History:
1. CAD w/ prior mLCx DES 
2. VF arrest in ___
3. HFrEF (35% ___
 
Social History:
___
Family History:
Mother CAD
 
Physical ___:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VITALS: ___ 0155 Temp: 98.2 PO BP: 154/74 L Sitting HR: 81
RR: 16 O2 sat: 98% O2 delivery: Ra  

General: Alert, oriented, no acute distress. Lying comfortably 
in bed. 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. PMI non-displaced, brisk carotid upstroke.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally.  

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp: 98.0 (Tm 98.2), BP: 138/67 (138-154/67-74), HR: 77 
(77-81), RR: 18 (___), O2 sat: 97% (97-98), O2 delivery: RA  
 
GENERAL: lying comfortably in bed, no distress
NECK: supple, non-tender, no JVP elevation
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, otherwise grossly intact
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 09:30PM BLOOD WBC-9.7 RBC-3.63* Hgb-11.7* Hct-35.4* 
MCV-98 MCH-32.2* MCHC-33.1 RDW-13.2 RDWSD-47.3* Plt ___
___ 09:30PM BLOOD Neuts-76.2* Lymphs-13.2* Monos-7.9 
Eos-2.1 Baso-0.2 Im ___ AbsNeut-7.42* AbsLymp-1.29 
AbsMono-0.77 AbsEos-0.20 AbsBaso-0.02
___ 09:30PM BLOOD ___ PTT-31.2 ___
___ 09:30PM BLOOD Glucose-108* UreaN-16 Creat-1.1 Na-141 
K-3.6 Cl-105 HCO3-19* AnGap-17
___ 09:30PM BLOOD CK(CPK)-98
___ 09:30PM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:30PM BLOOD Calcium-8.7 Phos-3.3 Mg-1.8

================
IMAGING/REPORTS:
================

___ CXR
The lungs are clear. There is no consolidation, effusion, or 
edema. The 
cardiomediastinal silhouette is within normal limits. No acute 
osseous 
abnormalities. 

===============
DISCHARGE LABS:
===============

___ 07:15AM BLOOD WBC-7.3 RBC-3.50* Hgb-11.3* Hct-34.8* 
MCV-99* MCH-32.3* MCHC-32.5 RDW-13.2 RDWSD-48.2* Plt ___
___ 07:15AM BLOOD Neuts-68.5 Lymphs-17.2* Monos-10.9 
Eos-2.7 Baso-0.3 Im ___ AbsNeut-5.02 AbsLymp-1.26 
AbsMono-0.80 AbsEos-0.20 AbsBaso-0.02
___ 07:15AM BLOOD Glucose-102* UreaN-16 Creat-0.9 Na-137 
K-4.2 Cl-105 HCO3-21* AnGap-11
___ 07:15AM BLOOD ALT-34 AST-26 LD(LDH)-181 AlkPhos-43 
TotBili-0.5
___ 07:15AM BLOOD Albumin-3.8 Calcium-8.4 Phos-2.6* Mg-1.___ with history of prior VF arrest (___), subsequently found 
to have CAD with DES to mLCx, and HFrEF (35% ___, who 
presented following an episode of regular narrow complex 
tachycardia, consistent with possible AVNRT. 

======================
ACUTE/ACTIVE PROBLEMS:
======================

# Narrow complex tachycardia
Presented with episode of palpitations, persistent for about 20
minutes, more severe than two prior episodes over the past six
months. No associated symptoms. Rhythm strip from EMS per 
cardiology fellow demonstrated NCT with short RP retrograde P 
waves, consistent with likely AVNRT vs. AVRT. Repeat EKG without 
evidence of bypass track, making AVNRT more likely. Likely 
triggered in setting of diarrheal illness. Troponins x2 
negative. Long discussion had with patient; given asymptomatic 
and no red flag signs/angina at baseline, it was felt safe to 
discharge him with close follow-up. Recommend monitoring with 
ZioPatch to elucidate further the etiology of these episodes. If 
frequency increases, recommend up-titration of beta blocker vs. 
transition to calcium blocker, although patient reluctant to do 
same this admission. 

========================
CHRONIC/STABLE PROBLEMS:
======================== 

# HFrEF (35% ___
Patient reported not having repeat echo since initial diagnosis 
in ___. Recommend repeat echo as an outpatient to determine 
need to optimize medical therapy further. No heart failure 
symptoms on history. 

# CAD with prior mLCx ___ transition to aspirin 81mg daily and continue atorvastatin 
80mg daily. 

====================
TRANSITIONAL ISSUES:
====================

[ ] NCT: recommend outpatient follow-up with rhythm monitoring 
to capture one of these events (e.g. ZioPatch)
[ ] BETA-BLOCKER: if these episodes increase in frequency, would 
up-titrate metoprolol vs. transition to calcium channel blocker
[ ] HFrEF: recommend repeat echocardiogram as outpatient to 
determine need for optimization of heart failure regimen 

================================================
# CODE STATUS: Full
# CONTACT: ___, wife, ___
 
Medications on Admission:
1. Metoprolol Succinate XL 12.5 mg PO EVERY OTHER DAY 
2. Atorvastatin 80 mg PO QPM 
3. Oxazepam 15 mg PO DAILY:PRN Prior to flying 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM  
3.  Metoprolol Succinate XL 12.5 mg PO EVERY OTHER DAY  
4.  Oxazepam 15 mg PO DAILY:PRN Prior to flying  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSIS:
==================

Narrow complex tachycardia, possibly AVNRT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ as you had an irregular heart rhythm

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You had no further events while you were in the hospital
- As you were asymptomatic we discharged you with follow-up with 
your outpatient cardiologist

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- Please arrange follow-up with your cardiologist for this issue
- It is important to take all your medications as prescribed

It was a pleasure looking after you!

Your ___ Healthcare Team

 
Followup Instructions:
___